US04874877
(R)-4-(Methylthio)-2-(p-toluenesulfonyloxy)-butyl p-Toluenesulfonate
(R)-4-(Methylthio)-1,2-butanediol (0.4 g, 2.9 mmol) was dissolved in 5 ml of pyridine and cooled to 0°-5° C. p-Toluenesulfonyl chloride (1.65 g, 9.0 mmol) was added and, after 5 minutes, the cooling bath removed, and the mixture stirred at room temperature for 2 hours, at which point it was diluted with 15 ml of H2O and extracted with 20 ml of ethyl acetate. The organic extract was washed with saturated NaCl, dried (MgSO4) and stripped to yield 0.5 g of present, crude title product as an oil, all of which was used in the next step without further refinement; tlc Rf 0.53 (3:1 hexane:ethyl acetate), 0.25 (5:1 hexane:ethyl acetate).

reactant | (R)-4-(Methylthio)-1,2-butanediol | 2.9 mmol, 0.4 g | CSCC[C@H](CO)O | C5H12O2S
reactant | p-Toluenesulfonyl chloride | 9.0 mmol, 1.65 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | (R)-4-(Methylthio)-2-(p-toluenesulfonyloxy)-butyl p-Toluenesulfonate | C1(=CC=C(C=C1)S(=O)(=O)OC[C@@H](CCSC)OS(=O)(=O)C1=CC=C(C=C1)C)C | C19H24O6S3
